US05204330
Allyl succinimidyl carbonate. (D23)
A mixture of N-hydroxysuccinimide (4.78 g, 0.042 mol) and allyl chloroformate (5.0 g, 4.40 ml, 0.042 mmol) in dry tetrahydrofuran (60 ml) was cooled to 0° C. under nitrogen. A solution of triethylamine (4.2 g, 5.78 ml, 0.042 mol) in tetrahydrofuran (20 ml) was added dropwise over 20 minutes. After completion of the addition, the mixture was stirred at room temperature for 4 hours, and then filtered and concentrated. Ethyl acetate (200 ml) was added and the resulting solution was washed sequentially with water (3×), saturated sodium bicarbonate solution and water (3×). Drying (MgSO4) and removal of the solvent in vacuo gave the title compound as a clear, colourless oil. (D23).

reactant | N-hydroxysuccinimide | 0.042 mol, 4.78 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | allyl chloroformate | 0.042 mmol, 4.40 ml, 5.0 g | ClC(=O)OCC=C | C4H5ClO2
reactant | triethylamine | 0.042 mol, 5.78 ml, 4.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Allyl succinimidyl carbonate | C(OCC=C)(ON1C(CCC1=O)=O)=O | C8H9NO5
